US03957999
A mixture of 5-methoxy-2-methylsulphonylbenzothiazole (1,105 g.), 4-(2-chloroethoxy)aniline (780 g.) and toluene (5 liters) is boiled for 2 hours under reflux with simultaneous removal of water. A further quantity of 4-(2-chloroethoxy)aniline (156 g.) is then added and the mixture boiled under reflux for 4 hours. The mixture is cooled, the solid filtered off, washed with ethanol (about 3 liters) and dried to give 5-methoxy-2-[4-(2-chloroethoxy)anilino]benzothiazole m.p. 176°- 178°C.

reactant | 5-methoxy-2-methylsulphonylbenzothiazole | 1,105 g | COC=1C=CC2=C(N=C(S2)S(=O)(=O)C)C1 | C9H9NO3S2
reactant | 4-(2-chloroethoxy)aniline | 780 g | ClCCOC1=CC=C(N)C=C1 | C8H10ClNO
reactant | toluene | 5 liters | C1(=CC=CC=C1)C | C7H8
reactant | 4-(2-chloroethoxy)aniline | 156 g | ClCCOC1=CC=C(N)C=C1 | C8H10ClNO
solvent | water | O | H2O
product | 5-methoxy-2-[4-(2-chloroethoxy)anilino]benzothiazole | COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCCl)C1 | C16H15ClN2O2S
